US06683095B2
Synthesis of (E)-3-[4-(benzyloxy)-3-chlorophenyl]-1-(2-hydroxy-5-methyl-3-nitrophenyl)-2-propen-1-one
2-Hydroxy-5-methyl-3-nitroacetophenone (750 mg, 3.84 mmol) and 4-benzyloxy-3-chlorobenzaldehyde (1 g, 3.84 mmol) were reacted according to the same procedure as Preparation 15 to give 970 mg (Yield 59%) of the title compound.

reactant | 2-Hydroxy-5-methyl-3-nitroacetophenone | 3.84 mmol, 750 mg | CC1=CC(=C(C(=C1)C(=O)C)O)[N+](=O)[O-] | C9H9NO4
reactant | 4-benzyloxy-3-chlorobenzaldehyde | 3.84 mmol, 1 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)Cl | C14H11ClO2
product | (E)-3-[4-(benzyloxy)-3-chlorophenyl]-1-(2-hydroxy-5-methyl-3-nitrophenyl)-2-propen-1-one | 970 mg, Yield 59% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)/C=C/C(=O)C1=C(C(=CC(=C1)C)[N+](=O)[O-])O)Cl | C23H18ClNO5
